US06596758B1
b) 5-Methyl-2,3-dihydrobenzoxepine
14.9 g (0.1 mol) of 5-methyl-2,3,4,5-tetrahydrobenzoxepin-5-ol, 300 ml of toluene and a spatula tip of para-toluenesulphonic acid are charged to a 1 litre reactor equipped with a Denan and Stark apparatus. The combined solution is brought to reflux for 2 hours, the water being removed as it is formed. The reaction mixture is then neutralized with a 5% aqueous sodium bicarbonate solution and the organic solution is washed with water. The organic phase is subsequently dried over anhydrous sodium sulphate and concentrated under reduced pressure. 16 g of the title compound are obtained, which compound is purified by distillation, B.p. (2.5 mm Hg)=80-90° C. 10 g of a colourless liquid are obtained.

reactant | 5-methyl-2,3,4,5-tetrahydrobenzoxepin-5-ol | 0.1 mol, 14.9 g | CC1(CCCOC2=C1C=CC=C2)O | C11H14O2
reactant | para-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Denan | CCC(C)(C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C | C25H38O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Methyl-2,3-dihydrobenzoxepine | 16 g | CC1=CCCOC2=C1C=CC=C2 | C11H12O
